Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Robitussin
 
Attending: ___
 
Chief Complaint:
LLQ Abdominal Pain, Colitis
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ female PMHx DVT not on 
anticoagulation presents for evaluation of 1 day of LLQ 
abdominal pain and 6 episodes of bloody diarrhea after starting 
azithromycin.

This all started approximately 3 weeks ago at which time pt 
developed uri type symptoms and was seen by primary care and 
found to have the flu and strep throat. Pt was treated with a 
course of abx and completed them approximately 1 week ago. 
Symptoms did not resolved so presented to primary care 1 day 
prior to presentation and was given azithromycin and started 
taking it at 12pm on the day prior to presentation and 
subsequently developed acute onset of LLQ abdominal pain 
followed by 6 episodes of frankly bloody diarrhea associated 
with lightheadedness and nausea but not emesis/fevers/chills/uti 
symptoms.

Pt does have a known history of a DVT and was on Coumadin for 
6mths and stopped it in ___. Last colonoscopy ___ yrs ago, 
negative. No travel/sick contacts.

In the ED, pt was afebrile HD stable. wbc ct 13k and hgb 15. 
chemistries wnl. CT scan w/ descending colitis-- no abcess/perf. 
Pt was given cipro and flagyl and admitted for additional 
evaluation and treatment.
 
Past Medical History:
Provoked DVT not currently on anticoagulation
Primary Hypertension
hyperlipidemia
 
Social History:
___
Family History:
Brother with generalized osteoarthritis

 
Physical Exam:
GENERAL: NAD
EYES: Anicteric
HENT: oral mucosa moist
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Soft, non-distended, non-tender, normal bowel sounds.
GU: No suprapubic tenderness.
MSK: superior and posterior L shoulder tender to palpation
SKIN: No rashes.
NEURO: Alert, oriented. L hand grip ___ motor strength. L arm
sensation intact.
PSYCH: Calm.
 
Pertinent Results:
___ 04:00PM BLOOD Hgb-15.0 Hct-44.2
___ 11:00AM BLOOD WBC-13.2* RBC-5.06 Hgb-14.7 Hct-43.6 
MCV-86 MCH-29.1 MCHC-33.7 RDW-13.8 RDWSD-43.5 Plt ___
___ 11:00AM BLOOD Neuts-73.0* ___ Monos-4.8* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-9.65* AbsLymp-2.85 
AbsMono-0.63 AbsEos-0.01* AbsBaso-0.03
___ 11:25AM BLOOD ___ PTT-27.5 ___
___ 11:00AM BLOOD Plt ___
___ 11:00AM BLOOD Glucose-109* UreaN-7 Creat-0.6 Na-139 
K-3.5 Cl-101 HCO3-24 AnGap-14
___ 11:00AM BLOOD Glucose-109* UreaN-7 Creat-0.6 Na-139 
K-3.5 Cl-101 HCO3-24 AnGap-14
___ 11:00AM BLOOD ALT-41* AST-36 AlkPhos-88 TotBili-0.5
___ 11:00AM BLOOD Lipase-31
___ 11:00AM BLOOD cTropnT-<0.01
___ 11:00AM BLOOD Albumin-4.6
___ 12:48PM BLOOD Lactate-1.4
___ 07:40PM OTHER BODY FLUID FluAPCR-NEG FluBPCR-NEG

___ 4:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

CHEST (PA & LAT) Study Date of ___ 12:46 ___ 
IMPRESSION:
Cardiomediastinal silhouette is at the upper limits of normal 
for size.  Mild emphysematous changes.  Mild blunting of the 
right costophrenic angle, better appreciated on the lateral view 
may represent small pleural effusion with compressive 
atelectatic changes.  There are no pneumothoraces. 
 

CT ABD & PELVIS WITH CONTRAST Study Date of ___ 2:50 ___ 
IMPRESSION:
Findings suggestive of colitis affecting the descending colon.  
No evidence of perforation nor abscess formation. 
 
EKG: NSR@52, QTc 428, Q-waves AVF, RSR' V2
 
Brief Hospital Course:
___ yo F with history of DVT (not on anticoagulation), presented 
with 1 day LLQ abdominal pain and bloody diarrhea. Vitals were 
stable, Hgb was stable. C diff stool was negative. CT abdomen 
showed descending colon wall thickening, consistent for colitis. 
Differential for colitis included infection vs inflammatory 
bowel disease. The abdominal pain and bloody diarrhea resolved 
within a day without intervention. Therefore, the patient was 
not treated with antibiotics. The patient was advised to follow 
up with Gastroenterology within 4 weeks for colonoscopy to 
evaluate for resolved infection versus inflammatory bowel 
disease.
The patient was also found with left shoulder pain. MRI showed 
mild tendinosis of the supraspinatus, infraspinatus and 
subscapularis tendons, and also a shallow 3 mm articular sided 
partial-thickness tear of the infraspinatus insertional fibers. 
Discussed image with orthopedics, who recommended physical 
therapy and no surgical intervention.
The patient was stable upon discharge. The patient was advised 
to follow up with gastroenterology for colitis. The patient was 
advised to follow up with Primary care and physical therapy for 
L infraspinatous partial tear. Risks and benefits were 
discussed, the patient verbalized understanding and agreed to 
plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Azithromycin 250 mg PO Q24H 
2. Simvastatin 40 mg PO QPM 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*120 Tablet Refills:*0 
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Metoprolol Succinate XL 50 mg PO DAILY  
4.  Simvastatin 40 mg PO QPM  
5.Outpatient Physical Therapy
Physical therapy for left shoulder (with partial tendon tear).

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1) Bloody diarrhea
2) Colitis
3) Left shoulder tendon partial tear

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Reason for admission to hospital:
1) Bloody diarrhea
2) Colitis

Instructions for after discharge from the hospital:
1) Follow up with Gastroenterology for evaluation of colitis.
2) Follow up with Primary Care physician ___ 1 week to follow 
up of Left shoulder pain with partial tendon tear.
3) Plan for physical therapy for left shoulder.
 
Followup Instructions:
___